US06608203B2
6-Methoxy-2-phenyl-1-pyridin-4-yl-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared by analogy to Preparation 65 except that N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-isonicotinamide was used instead of 4-methoxy-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide, and the final residue was subjected to flash chromatography using hexanes:EtOAc from 4:1 to 2:1.

reactant | N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-isonicotinamide | COC=1C=C(C=CC1)CCN(C(C1=CC=NC=C1)=O)C1=CC=CC=C1 | C21H20N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Methoxy-2-phenyl-1-pyridin-4-yl-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(C(C2=CC1)C1=CC=NC=C1)C1=CC=CC=C1 | C21H20N2O
